US05521179
2-[3-Benzyloxycarbonylamino-6-(3-hydroxyphenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To a solution of 2-[3-benzyloxycarbonylamino-6-(3-tert-butoxyphenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (78 mg) in dry dichloromethane (3 mL) was added trifluoroacetic acid (57 mg). After 5 h the reaction was incomplete, and additional trifluoroacetic acid (57 mg) was added. After 18 h the reaction mixture was diluted with dichloromethane (50 mL), washed with water and brine, dried, and evaporated to a crude oil which was purified by chromatography, eluting with ethanol:ethyl acetate:dichloromethane (0.5:5:94.5), to give the title compound as a white solid (60 mg); TLC: Rf =0.15, ethanol:ethyl acetate:dichloromethane (0.5:5:94.5); HPLC: tR =6.04, FR=2.0, column A, water:acetonitrile (55:45); MS: m/z=546(M+1).

reactant | 2-[3-benzyloxycarbonylamino-6-(3-tert-butoxyphenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 78 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C1=CC(=CC=C1)OC(C)(C)C)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C31H34F3N3O6
reactant | trifluoroacetic acid | 57 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 57 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-[3-Benzyloxycarbonylamino-6-(3-hydroxyphenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 60 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C1=CC(=CC=C1)O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C27H26F3N3O6
